US07989622B2
3-amino-N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)benzenesulfonamide
A flask was charged with N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)-3-nitro-benzenesulfonamide (3.4 g, 7.06 mmol), prepared using procedures similar to those in Example 14, tin chloride solvate (6.4 g, 28.2 mmol), and 30 mL of DMA. A few drops of water were added and the reaction mixture was stirred at 80° C. for 3 hours, after which time, solvent was removed on a rotary evaporator, and 50 mL of water and 10 mL of Methanol were added. The slurry was filtered, and the filtrate was washed with MeOH, water, and diethyl ether (20 mL of each), resulting in 3.25 g 3-amino-N-(3-(3,5-dimethoxy-phenylamino)quinoxalin-2-yl)benzenesulfonamide. 1H NMR (400 MHz, DMSO) δ 12.2 (br s, 1H), 8.85 (s, 1H), 7.90 (br s, 1H), 7.50-7.60 (m, 1H), 7.3-7.4 (m, 4H), 7.2 (m, 3H), 6.74 (m, 1H), 6.24 (m, 1H), 5.56 (br s, 2H), 3.76 (s, 6H). MS (EI) m/z for C22H21N5O4S: 452.0 (MH+).

reactant | N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)-3-nitro-benzenesulfonamide | 7.06 mmol, 3.4 g | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C22H19N5O6S
reactant | tin chloride | 28.2 mmol, 6.4 g | [Sn](Cl)(Cl)(Cl)Cl
catalyst | water | A few drops | O | H2O
solvent | DMA | 30 mL | CC(=O)N(C)C | C4H9NO
product | 3-amino-N-(3-(3,5-dimethoxyphenylamino)quinoxalin-2-yl)benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=CC(=CC(=C1)OC)OC | C22H21N5O4S
